US07977477B2
Sodium hydride (60% dispersion in mineral oil, 0.096 g, 2.4 mmol) was added in several portions to a solution of N-Boc-4-piperidine ethanol (0.550 g, 2.4 mmol) in THF (20 ml). To this mixture was added a solution of 3,4-dinitrofluorobenzene (0.372 g, 2.0 mmol) and the resultant mixture was stirred at ambient temperature for 16 h. The reaction mixture was diluted with ethyl acetate (100 ml), washed with water (60 ml) and the aqueous phase back extracted with ethyl acetate (3×50 ml). The combined organics were washed with brine (50 ml), dried (MgSO4) and reduced in vacuo. The resulting residue was subjected to column chromatography eluting with a 0-50% gradient of ethyl acetate in petroleum ether. 4-[2-(3,4-dinitro-phenoxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester was obtained as a yellow oil (0.361 g, 46%).

reactant | Sodium hydride | 2.4 mmol, 0.096 g | [H-].[Na+]
reactant | N-Boc-4-piperidine ethanol | 2.4 mmol, 0.550 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CCO | C12H23NO3
reactant | 3,4-dinitrofluorobenzene | 2.0 mmol, 0.372 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])F | C6H3FN2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-[2-(3,4-dinitro-phenoxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C18H25N3O7
